US05028607
4-[Bis(4-fluorophenyl)methylene]-1-(chloroethyl)piperidine hydrochloride
0.31 mol of ethylene oxide is dissolved in a solution of 0.28 mol of 4-[bis(4-fluorophenyl)methylene]-piperidine (prepared according to the process described in U.S. Pat. No. 3,922,276) in one liter of anhydrous methanol at -10° C., and the reaction is completed by stirring for 15 hours at -20° C. and then for 3 hours at 45° C. The mixture is concentrated under vacuum. The product is purified by chromatography on 140 g of 230-400 mesh silica using a mixture of dichloromethane and methanol (95:5 V/V) as eluent. The oil obtained is solubilized in one liter of anhydrous toluene and 0.27 mol of thionyl chloride is then added. The mixture is brought to reflux for 30 min to complete the reaction. The mixture is cooled to 20° C. and the precipitate formed is filtered off.

reactant | ethylene oxide | 0.31 mol | C1CO1 | C2H4O
reactant | 4-[bis(4-fluorophenyl)methylene]-piperidine | 0.28 mol | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
reactant | thionyl chloride | 0.27 mol | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | one liter | CO | CH4O
solvent | toluene | one liter | C1(=CC=CC=C1)C | C7H8
product | 4-[Bis(4-fluorophenyl)methylene]-1-(chloroethyl)piperidine hydrochloride | Cl.FC1=CC=C(C=C1)C(=C1CCN(CC1)CCCl)C1=CC=C(C=C1)F | InChI=1S/C20H20ClF2N.ClH/c21-11-14-24-12-9-17(10-13-24)20(15-1-5-18(22)6-2-15)16-3-7-19(23)8-4-16;/h1-8H,9-14H2;1H
